US04082764
A solution of 20 parts of 2-amino-2'-chlorobenzophenone, 15 parts of methyl orthoacetate, 12 volume parts of acetic acid in 250 parts of benzene is refluxed for 5 hours. The mixture is washed with saturated aqueous sodium bicarbonate solution and water, and then dried over sodium sulfate. Evaporation of the solvent gives 2'-chloro-2-(1-methoxyethylideneamino) benzophenone as an oily substance in almost quantitative yield.

reactant | 2-amino-2'-chlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=CC=C1 | C13H10ClNO
reactant | methyl orthoacetate | C(C)(OC)([O-])[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2'-chloro-2-(1-methoxyethylideneamino) benzophenone | quantitative yield | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N=C(C)OC)=O | C16H14ClNO2
